US09315521B2
2-{[(4-amino-2-chlorophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
2-{[(2-chloro-4-nitrophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (282 mg, 1.0 mmol) was dissolved in DCM/EtOH/H2O (20 mL/20 mL/10 mL). Iron (550 mg, 10 mmol) and NH4Cl (540 mg, 10 mmol) were added. The mixture was stirred at room temperature for 3 hours. DCM (200 mL) was added to extract the product. The organic phase was dried over MgSO4 and evaporated. The crude product was purified by CombiFlash (0 to 8% MeOH/DCM) to provide the title compound as a yellow solid (100 mg, 35% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.22 (s, 3H), 4.37 (s, 2H), 5.95 (br, 1H), 6.65 (d, 1H), 6.92 (s, 1H), 7.38 (d, 1H); M+282.

reactant | 2-{[(2-chloro-4-nitrophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 1.0 mmol, 282 mg | ClC1=C(C=CC(=C1)[N+](=O)[O-])CSC1=NC(=CC(=N1)O)C | C12H10ClN3O3S
reactant | NH4Cl | 10 mmol, 540 mg | [NH4+].[Cl-]
reactant | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM EtOH H2O | 20 mL | C(Cl)Cl.CCO.O
catalyst | Iron | 10 mmol, 550 mg | [Fe] | Fe
product | 2-{[(4-amino-2-chlorophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 100 mg, 35% yield | NC1=CC(=C(C=C1)CSC1=NC(=CC(=N1)O)C)Cl | C12H12ClN3OS
